US08809371B2
Triethylamine (193 μl), tert-butanol (227 μl), and DPPA (525 μl) were added to a toluene (5 ml) solution containing 5-fluoro-6-(1H-pyrazol-1-yl)nicotinic acid (330 mg), followed by reflux for 3 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=10:1 to 3:1), and a white solid of tert-butyl(5-fluoro-6-(1H-pyrazol-1-yl)pyridin-3-yl)carbamate (210 mg) was thus obtained.

reactant | Triethylamine | 193 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 227 μl | C(C)(C)(C)O | C4H10O
reactant | DPPA | 525 μl | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 5-fluoro-6-(1H-pyrazol-1-yl)nicotinic acid | 330 mg | FC=1C(=NC=C(C(=O)O)C1)N1N=CC=C1 | C9H6FN3O2
solvent | Water | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl(5-fluoro-6-(1H-pyrazol-1-yl)pyridin-3-yl)carbamate | 210 mg | C(C)(C)(C)OC(NC=1C=NC(=C(C1)F)N1N=CC=C1)=O | C13H15FN4O2
